US08193246B2
22-Hydroxy-docosanoic acid was synthesized according to Mori et al., Liebigs Ann. Chem., (1991), 253-257. Briefly, under N2 atmosphere 6.6 g Docos-21-enoic acid ethyl ester and 30 ml THF were combined and cooled down to 0° C. Then 0.5 eq. (9 ml) borane/THF complex was added dropwise and the mixture was allowed to stir for 2 hours at room temperature. After the addition of 1.2 ml H2O the suspension was again cooled down to 0° C. and 15 ml 3M NaOH and 2 ml 35% H2O2 were added. The mixture was stirred for one hour at 50° C. Then the temperature was brought to room temperature and the pH was adjusted to pH 2-3 with 2N HCl. The solid was fritted, washed with H2O, codistilled three times with CHCl3 and recrystallized from CHCl3. After a further treatment with NaOH (3M in H2O) in THF at 50° C. over 1.5 days the pH was again adjusted to pH 2-3 and the crude product was fritted, washed with H2O and codistilled two times with CHCl3. The product was characterized by thin layer chromatography and 1H-NMR.

reactant | Docos-21-enoic acid ethyl ester | 6.6 g | C(C)OC(CCCCCCCCCCCCCCCCCCCC=C)=O | C24H46O2
reactant | NaOH | 3M, 15 ml | [OH-].[Na+]
reactant | H2O2 | 2 ml | OO | H2O2
reactant | HCl | 2N | Cl | ClH
solvent | H2O | 1.2 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 22-Hydroxy-docosanoic acid | OCCCCCCCCCCCCCCCCCCCCCC(=O)O | C22H44O3
